US04305954
6,7-Dichloro-2,3-dihydro-4-[(4-methylphenyl)sulfonyloximino]-4H-1-benzopyran
A solution of p-toluenesulfonyl chloride (103 g) in 125 ml pyridine was added dropwise at 5°-10° to 6,7-dichloro-2,3-dihydro-4-(hydroxyimino)-4H-1-benzopyran (62.5 g) in 250 ml pyridine. The reaction mixture was then stirred for 20 hours at room temperature, poured into ice-water to separate out the title compound, which was filtered, washed several times with water, then once with ether, and finally dried in air. Yield: 101.8 g; m.p. 180°-184°.

reactant | p-toluenesulfonyl chloride | 103 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6,7-dichloro-2,3-dihydro-4-(hydroxyimino)-4H-1-benzopyran | 62.5 g | ClC=1C(=CC2=C(C(CCO2)=NO)C1)Cl | C9H7Cl2NO2
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 6,7-Dichloro-2,3-dihydro-4-[(4-methylphenyl)sulfonyloximino]-4H-1-benzopyran | ClC=1C(=CC2=C(C(CCO2)=NOS(=O)(=O)C2=CC=C(C=C2)C)C1)Cl | C16H13Cl2NO4S
